US08604023B2
N-(5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pivalamide
5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (0.5 g, 2.27 mmol), pivaloyl chloride (0.277 g, 2.20 mmol) and triethylamine (0.248 g, 2.45 mmol) in pyridine (10 mL) were stirred at room temperature overnight. The mixture was diluted with ethyl acetate and ice/water and the layers were separated. The aqueous phase was extracted with ethyl acetate and the combined extracts dried over sodium sulfate. Purification by chromatography (1:1 ethyl acetate in hexanes) gave the product (0.385 g, 56% yield) as a white solid. 1H-NMR (300 MHz, CDCl3) δ 8.60 (s, 1H), 8.23 (d, 1H), 8.06 (d, 2H), 1.33 (s, 12H), 1.31 (s, 9H). MS (ES+) m/z 305 (M+1).

reactant | 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 2.27 mmol, 0.5 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
reactant | pivaloyl chloride | 2.20 mmol, 0.277 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | triethylamine | 2.45 mmol, 0.248 g | C(C)N(CC)CC | C6H15N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pivalamide | 0.385 g, 56% yield | CC1(OB(OC1(C)C)C=1C=CC(=NC1)NC(C(C)(C)C)=O)C | C16H25BN2O3
